US08604019B2
To a bottle containing a cooled suspension of lithium aluminum hydride (44 g, 1.17 mol) in dry tetrahydrofuran (1.5 L) was added 3,4-dihydro-1,4-benzothiazepin-5(2H)-one (150 g, 0.84 mol) in portions at 0° C. After being refluxed for 18 hours, the reaction mixture was cooled to 0° C., followed by addition of water (25 mL) dropwise. The reaction mixture was then filtered through a pad of celite and washed with dichloromethane. The filtrate was dried over sodium sulfate and evaporated in vacuo to afford 125 g of 2,3,4,5-tetrahydro-1,4-benzothiazepine (yield was 90%), which was used for the next step without further purification.

reactant | lithium aluminum hydride | 1.17 mol, 44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,4-dihydro-1,4-benzothiazepin-5(2H)-one | 0.84 mol, 150 g | S1CCNC(C2=C1C=CC=C2)=O | C9H9NOS
reactant | water | 25 mL | O | H2O
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | 2,3,4,5-tetrahydro-1,4-benzothiazepine | 125 g, yield was 90% | S1CCNCC2=C1C=CC=C2 | C9H11NS
